US04176191
5,6-Dimethoxy-3[4(2-methylpropyloxycarbonyl)piperazino]methylene oxindole (IX)
5.00 g. of 5,6-Dimethoxy-3-hydroxymethylene oxindole, 2.5 g. acetic acid and 6.5 g. piperazine-N-carboxylic acid isobutyl ester (U.S. Pat. No. 3,635,979) in 40 ml. benzene was refluxed using a water separator to remove the water as it formed. After 20 minutes, 200 ml. benzene was added and the solution extracted with potassium carbonate and water. The benzene solution was treated with magnesium sulfate and charcoal, filtered, concentrated and the residue crystallized from isopropyl alcohol and ether to give 5.50 g. product, m.p. 195°-197° C.

reactant | 5,6-Dimethoxy-3-hydroxymethylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CO | C11H11NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | piperazine-N-carboxylic acid isobutyl ester | C(C(C)C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 5,6-Dimethoxy-3[4(2-methylpropyloxycarbonyl)piperazino]methylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CN1CCN(CC1)C(=O)OCC(C)C | C20H27N3O5
